Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
RUQ pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
PCP: Dr ___ at ___
.
___ w/ HCV who p/w RUQ pain x2d and yellow sclera and ___ 
urine for the past two days as well. Went to ___ and ___ 
___ x2, left AMA first time from ___, then refused back at 
his detox because of his new symptoms without proper doctor 
___, then went back to ___, then transferred here for 
hepatology evaluation given the labs that were drawn.
His tox screen at detox was positive for multiple substances 
including heroin, cocaine, amphetamines and PCP. 

 ALT: 648 AP: 111 Alb: 3.9 
 AST 318 Dbili 8.2 TBili 10.9 
 ___: Lip: 28 TProt 7.0 

RUQ us showing dilated GB wall but without other findings. Then, 
transferred from ___ for abd pain and jaundice and for 
hepatology evaluation.

HE denies chest pains, shortness of breath, fevers. He has been 
using IVDU for the past 5 days. Prior to that he has had periods 
of sobriety. He denies headache, blurry vision. He denies 
vomiting but has had nausea. He denies diarrhea. No rashes. No 
visual changes. + dry cough x couple days < 1 week.  + leg 
cramps from from withdrawing. He last used heroin on ___. At 
detox he was started on methadone 30 mg. 
In ED:  VS: 8 | 98.5 | 69 | 107/61 |16 |100% RA \
P.E.tenderness in RUQ
yellow icterus
BLE nl in size
No meds or IVF given in ED. 
All other ROS negative except as above. 
 
Past Medical History:
Hepatitis C
ADHD
Severe Anxiety
h/o PTSD
Depression
Bipolar d/o- labile moods
Accident overdose at ___ from mixing pills
 
Social History:
___
Family History:
He does not know about his dad's health. His mother is a 
recovering addict from ETOH and drugs. She is getting ready to 
start treatment for hep C. 
 
Physical Exam:
ADMISSION EXAM:
Vitals:  T 97.8 P 64  BP 106/64  RR 16  SaO2 100% on RA 
CONS: NAD, comfortable appearing  
HEENT: ncat, +deeply juandice scleara MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative but a little hostile/suspicous 

DISCHARGE EXAM:
Gen: awake, alert, agitated
MSK: stable gait
Psych: hostile

 
Pertinent Results:
ADMISSION LABS"
___ 03:49AM   ___ PTT-32.7 ___
___ 01:54AM   COMMENTS-GREEN TOP
___ 01:54AM   LACTATE-0.7
___ 01:40AM   GLUCOSE-98 UREA N-12 CREAT-0.8 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-29 ANION GAP-10
___ 01:40AM   estGFR-Using this
___ 01:40AM   ALT(SGPT)-544* AST(SGOT)-244* ALK PHOS-114 
TOT BILI-10.0*
___ 01:40AM   LIPASE-30
___ 01:40AM   ALBUMIN-3.6 CALCIUM-9.0 PHOSPHATE-3.6 
MAGNESIUM-1.9
___ 01:40AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:40AM   WBC-6.3 RBC-4.17* HGB-12.7* HCT-38.6* MCV-93 
MCH-30.5 MCHC-32.9 RDW-15.3 RDWSD-52.0*
___ 01:40AM   NEUTS-37.9 ___ MONOS-8.5 EOS-3.5 
BASOS-0.5 IM ___ AbsNeut-2.37 AbsLymp-3.09 AbsMono-0.53 
AbsEos-0.22 AbsBaso-0.03
___ 01:40AM   PLT COUNT-146*
============================
Notable inpatient studies:
___ 10:10 am IMMUNOLOGY
HCV VIRAL LOAD (Final ___: 2,610 IU/mL. 
      Performed using Cobas Ampliprep / Cobas Taqman HCV v2.0 
Test. 
      Linear range of quantification: 1.50E+01 IU/mL - 1.00E+08 
IU/mL. 
      Limit of detection: 1.50E+01 IU/mL. 
============================
___ RUQ US:
CONCLUSION: Splenomegaly. Marked gallbladder wall thickening 
without
abnormal gallbladder distention, which likely reflects changes
secondary to underlying liver disease and the absence of 
leukocytosis
or fever. No biliary dilatation. Other findings as detailed.
==========================
___ MRCP:
FINDINGS: 
 
Lower Thorax: The lung bases are clear.  No pleural or 
pericardial effusion.
 
Liver: The liver is homogeneous in signal characteristics.  
There is no
chemical shift on the in or out of phase sequences to suggest 
the presence of
hepatic steatosis or iron deposition. The liver contours are 
smooth.  No solid
or cystic lesions.  There is diffuse periportal edema. Trace 
perihepatic
ascites.
 
Biliary: No intra- or extra-hepatic duct dilation.  The common 
bile duct is
within normal limits.  The gallbladder demonstrates significant 
gallbladder
wall thickening but no gallstones.
 
Pancreas: The pancreatic parenchyma maintains normal bulk, 
intrinsic
hyperintense T1 signal and enhancement pattern. No focal lesion 
or ductal
abnormality is seen.
 
Spleen: Enlarged measuring 14.2 cm.  Splenic parenchyma is 
normal in
appearance.
 
Adrenal Glands: Normal in size and signal characteristics.  No 
focal lesions.
 
Kidneys: The kidneys are normal in size and signal 
characteristics.  The
corticomedullary differentiation is well-maintained with normal 
excretion of
contrast on the delayed phase images.  There are no solid 
lesions.  No
hydronephrosis or hydroureter.
 
Gastrointestinal Tract:  The GI tract is of normal caliber 
throughout.
 
Lymph Nodes: No significant mesenteric, retroperitoneal or porta 
hepatis
lymphadenopathy by size criteria.
 
Vasculature: The visualized abdominal aorta and proximal 
mesenteric vessels
appear patent without any significant areas of narrowing or 
dilatation.
 
Osseous and Soft Tissue Structures: The bone marrow demonstrates 
normal signal
characteristics.  No concerning osseous lesions.
 
IMPRESSION: 
1.  Significant gallbladder wall edema without gallstones 
identified.  With
the periportal edema and trace perihepatic ascites, this is 
likely secondary
to acute hepatitis or acute on chronic liver disease. This is 
unlikely
cholecystitis and not calculous cholecystitis.
2.  Splenomegaly.
3.  No evidence of cirrhosis.
=====================================
DISCHARGE LABS:
___ 06:05AM BLOOD WBC-4.2 RBC-4.72 Hgb-13.8 Hct-42.4 MCV-90 
MCH-29.2 MCHC-32.5 RDW-15.1 RDWSD-50.4* Plt ___
___ 06:10AM BLOOD ___
___ 06:05AM BLOOD Glucose-104* UreaN-7 Creat-0.6 Na-142 
K-3.5 Cl-103 HCO3-29 AnGap-14
___ 06:05AM BLOOD ALT-282* AST-117* AlkPhos-127 
TotBili-5.5*
___ 06:05AM BLOOD Albumin-4.0 Calcium-9.3 Phos-4.2 Mg-1.9
___ 06:05AM BLOOD HBsAg-Negative HBsAb-Positive 
HBcAb-NEGATIVE HAV Ab-NEGATIVE

 
Brief Hospital Course:
# Bacteremia with CoNS
- ___ BCx grew CoNS
- MRCP without evidence of acute cholecystitis or 
choledocholithisasis
- was started on Vanc ___ at 01:00) when BCx returned positive 
w/ GPCs
- he has not had any fevers, chills, leukocytosis or other 
reason to suspect severe ongoing bloodstream infection
- repeat BCx on ___ remain NGTD at the time of writing this 
discharge summary
- discussed with ID team on-call, recommended stopping 
vancomycin and assessing response to determine if true infection 
(i.e if patient develops fever (at which point would culture and 
await positive results prior to re-initiating abx),
- stopped vancomycin on ___
- We had hoped the patient would be willing to stay for full 48 
hours off abx, but he was unwilling; he initially demanded to 
leave on the morning of ___, but upon finding out that 
he did not have a place to sleep that night, he decided he would 
stay.
- Subsequently, during the late evening of ___, he changed his 
mind and left AMA, refusing to even stay to receive his 
discharge paperwork, which had already been prepared for his 
expected discharge the following morning.  He was advised prior 
to his decision to leave AMA to seek immediate medical attention 
if he developed any fevers/chills.

# Acute hepatitis NOS without evidence of decompensated liver 
disease: improving at the time of discharge. 
- DDx thought to include hepatocellular from infection, drug 
reaction, injury from illicits or medications (??abx exposure 
recently per patient).  
- Given MRCP negative and transaminitis and hyperbilirubinemia 
are improving, no indication for hepatology consult at this time
- If this were alcoholic hepatitis, which is not as likely based 
on history and initial LFT pattern (ALT > AST), we have 
calculated the MDF to be 7 based on admission labs, which is not 
severe enough to require steroids
- Advised patient to seek Hepatology follow-up as outpatient
- Advised patient to avoid hepatotoxins such as Alcohol, Tylenol
- If he is able to maintain sobriety, he would potentially be a 
good candidate for treatment of his chronic HCV, attempted to 
provide him with contact information for ___ upon 
discharge, but he refused to wait for his discharge paperwork 
prior to leaving AMA.

# Active IVDU
- Patient on suboxone for years, this was continued.  However, 
given new liver dysfunction and jaundice, we decreased dose to 
once daily from twice daily as per pharmacy and monitor closely 
for withdrawal side effects: no evidence of severe withdrawal 
symptoms to date.

# ADHD
# Anxiety: 
Continued home clonazepam and Adderall.  Though we would advise 
an outpatient medication reconciliation and consideration of 
discontinuing either adderall or clonazepam, or both, given 
their relatively antagonistic actions.

# Chronic Hepatitis C
- Hep C Ab positive, HCV VL was 2,610 IU/mL.
- Consider ___ f/u for treatment of chronic Hep C if 
patient is able to achieve abstinence from IV drugs.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL DAILY 
2. ClonazePAM 2 mg PO DAILY 
3. Amphetamine-Dextroamphetamine 20 mg PO BID 
4. Gabapentin 800 mg PO TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute hepatitis with jaundice and transaminitis
Coagulase negative staph bacteremia vs. contaminant
Active IV polysubstance use
Chronic Hepatitis C

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
NOTE: PATIENT ABSCONDED AND REFUSED TO TAKE THIS PAPERWORK.
___,
You were admitted with jaundice and some abdominal pain.  You 
underwent an MRI of the abdomen which showed inflammation of the 
liver and no evidence of gallbladder infection.  You also had a 
blood culture drawn in the ED that grew bacteria and you were 
immediately started on antibiotics.  Subsequent blood cultures 
have not grown any bacteria.  Overall, your jaundice and liver 
inflammation have improved.  We discussed your case with the 
infectious disease specialists, who advised stopping your 
antibiotics and continuing to observe you off antibiotics to see 
if you develop fever or other signs of infection.  You did not 
develop signs of infection during the first ___ hours off of 
antibiotics, but were unwilling to stay longer for observation.  
As a result, it is very important that you:
- Seek immediate medical attention if you develop fever or 
shaking chills.
- If you are found to have a fever when they your temperature is 
checked, you should have at least 2 sets of blood cultures drawn 
prior to receiving any antibiotics.  We would advise the 
infectious disease team be involved if that were to happen.

You have told us you plan to go back to ___ 
Residential Rehab program today.  We agree with this plan and 
encourage you to continue in your efforts to get sober.

-Please call ___ to schedule an appointment in the 
___ within the next month for further evaluation 
of your chronic liver disease.

-Please call ___ to schedule an appointment in the 
___ infectious diseases clinic to be evaluated for potential 
treatment of your chronic hepatitis C.

You still have significant inflammation of your liver, which may 
take a long period to fully resolve.  
-Do not take Tylenol (Acetaminophen) until your primary care 
physician or liver specialist tells you that it would be OK to 
do so.
-Do not drink any alcohol.
 
Followup Instructions:
___